US06713471B1
To a dry THF (Aldrich anhydrous grade, 70 mL) solution of 2,3-dichloronitrobenzene (9.61 g, 50.1 mmol) and 3-chloropropanethiol (5.0 g, 45.5 mmol) was added in one portion at 23° C. KOH pellets. The resulting mixture was vigorously stirred at 23° C. for 3.5 h. The reaction mixture was filtered through a Celite plug to remove remaining KOH. The plug was washed with THF (2×50 mL). The filtrate was concentrated in vacuo to give crude 1-chloro-2-[(3-chloropropyl)sulfanyl]-3-nitrobenzene (12 g, ˜100%).

reactant | 2,3-dichloronitrobenzene | 50.1 mmol, 9.61 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 3-chloropropanethiol | 45.5 mmol, 5.0 g | ClCCCS | C3H7ClS
reactant | KOH | [OH-].[K+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 1-chloro-2-[(3-chloropropyl)sulfanyl]-3-nitrobenzene | 12 g, ~100% | ClC1=C(C(=CC=C1)[N+](=O)[O-])SCCCCl | C9H9Cl2NO2S
